US05401770
Zinc-Leucine Complex
L-Leucine (2.00 g, 15.3 mmol) was added to an MeOH solution of NaOMe (prepared with Na: 0.36 g, MeOH: 50 ml) at 0° C. and stirred. An MeOH solution (30 ml) of zinc acetate dihydrate (1.67 g) was then slowly dropwise added thereto at room temperature. After stirring for 2 hours at that same temperature, the solution was concentrated to half its original volume, followed by the addition of an equal volume of water. The precipitated crystal was recovered by filtration, air dried, and then dried under a reduced pressure (5 mmHg, 80° C.).

reactant | L-Leucine | 15.3 mmol, 2.00 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | NaOMe | 50 ml, 0.36 g | C[O-].[Na+]
reactant | zinc acetate dihydrate | 1.67 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | MeOH | 30 ml | CO | CH4O
product | Zinc Leucine | [Zn].N[C@@H](CC(C)C)C(=O)O | InChI=1S/C6H13NO2.Zn/c1-4(2)3-5(7)6(8)9;/h4-5H,3,7H2,1-2H3,(H,8,9);/t5-;/m0./s1
